US07662831B2
Following the procedure of Example 1, Step 4, 5,6,8,9,10,11-hexahydro-4H-pyrido[3,2,1-jk]carbazol-2-amine (0.13 g, 0.55 mmol), hexanoyl chloride (0.076 mL, 0.55 mmol) and poly-(4-vinylpyridine) (500 mg) in dichloromethane (12 mL) provided N-5,6,8,9,10,11-hexahydro-4H-pyrido[3,2,1-jk]carbazol-2-ylhexanamide (14 mg). MS (ES) m/z 325.1; HPLC purity 100% at 210-370 nm, 11.0 min.; 98.9% at 250 nm, 11.0 min. (Xterra RP18, 3.5 u, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN and MeOH) for 10 min, hold 4 min); HRMS: calcd for C21H28N2O+H+, 325.22744; found (ESI, [M+H]+), 325.2289.

reactant | 5,6,8,9,10,11-hexahydro-4H-pyrido[3,2,1-jk]carbazol-2-amine | 0.55 mmol, 0.13 g | C1=C2C=3CCCCC3N3C2=C(C=C1N)CCC3 | C15H18N2
reactant | hexanoyl chloride | 0.55 mmol, 0.076 mL | C(CCCCC)(=O)Cl | C6H11ClO
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | N-5,6,8,9,10,11-hexahydro-4H-pyrido[3,2,1-jk]carbazol-2-ylhexanamide | 14 mg | C1=C2C=3CCCCC3N3C2=C(C=C1NC(CCCCC)=O)CCC3 | C21H28N2O
